US06630600B1
3-{4-[2-(4-Aminophenyl)ethoxy]phenyl}-(S)-2-ethoxypropanoic acid ethyl ester hydro chloride (0.55 g; 1.4 mmole) was dissolved in tetrahydrofuran (5 ml) and methyl chloroformate (0.534 g; 5.68 mmole) was added slowly. The reaction mixture was continuously checked with HPLC and after 6 days was all the starting material consumed. Water was added to the mixture, tetrahydrofuran was evaporated and the residue extracted three times with ethyl acetate. The organic phase was dried with magnesium sulfate and evaporated and 0.525 g (90.2%) of (S)-2-ethoxy-3-(4-[2-{4-(methoxycarbonylamino)phenyl}ethoxy]phenyl)propanoic acid ethyl ester was obtained.

reactant | 3-{4-[2-(4-Aminophenyl)ethoxy]phenyl}-(S)-2-ethoxypropanoic acid ethyl ester hydro chloride | 1.4 mmole, 0.55 g | Cl.C(C)OC([C@H](CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)N)OCC)=O
reactant | methyl chloroformate | 5.68 mmole, 0.534 g | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (S)-2-ethoxy-3-(4-[2-{4-(methoxycarbonylamino)phenyl}ethoxy]phenyl)propanoic acid ethyl ester | 0.525 g, 90.2% | C(C)OC([C@H](CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)NC(=O)OC)OCC)=O | C23H29NO6
